US05041673
2-Amino-1,2-dihydro-3(4H)-phenanthrenone, hydrochloride
2-Amino-4-chloro-1,2,3,4-tetrahydro-3-phenanthrenol, hydrochloride (40 mg) was refluxed in trifluoroacetic acid (17 ml) for 31/2hours. The solvent was removed in vacuo and the residue was crystallized from a cyclohexane/ethyl acetate mixture to yield the title compound (17 mg) as a cream colored powder.

reactant | 2-Amino-4-chloro-1,2,3,4-tetrahydro-3-phenanthrenol, hydrochloride | 40 mg | Cl.NC1CC=2C=CC3=CC=CC=C3C2C(C1O)Cl
solvent | trifluoroacetic acid | 17 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-1,2-dihydro-3(4H)-phenanthrenone, hydrochloride | 17 mg | Cl.NC1CC=2C=CC3=CC=CC=C3C2CC1=O | InChI=1S/C14H13NO.ClH/c15-13-7-10-6-5-9-3-1-2-4-11(9)12(10)8-14(13)16;/h1-6,13H,7-8,15H2;1H
